US09163021B2
di-tert-butyl {2-methoxy-5-[methoxy(methyl)carbamoyl]pyridin-3-yl}imidodicarbonate
To a solution of 5-[bis(tert-butoxycarbonyl)amino]-6-methoxynicotinic acid (Preparation 70, 500 mg, 1.358 mmol) and DIPEA (730 uL, 4.076 mmol) in DMF (4 mL) was added HATU (774 mg, 2.038 mmol) and N-methoxy-methylamine hydrochloride (198 mg, 2.038 mmol) and the reaction stirred at room temperature for 16 hours. The reaction was partitioned between saturated aqueous NaHCO3 solution and EtOAc, the organic layer collected, dried over sodium sulfate and concentrated in vacuo to afford the title compound that was used directly in the next step.

reactant | 5-[bis(tert-butoxycarbonyl)amino]-6-methoxynicotinic acid | 1.358 mmol, 500 mg | C(C)(C)(C)OC(=O)N(C=1C(=NC=C(C(=O)O)C1)OC)C(=O)OC(C)(C)C | C17H24N2O7
reactant | DIPEA | 4.076 mmol, 730 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.038 mmol, 774 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methoxy-methylamine hydrochloride | 2.038 mmol, 198 mg | Cl.CONC
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | di-tert-butyl {2-methoxy-5-[methoxy(methyl)carbamoyl]pyridin-3-yl}imidodicarbonate | COC1=NC=C(C=C1N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(N(C)OC)=O | C19H29N3O7
